US08138176B2
e2) C-[5-(4-Methoxyphenyl)-5-methylmorpholin-3-yl]methylamine
A mixture of 40.1 mmol of 5-(4-methoxyphenyl)-5-methylmorpholine-3-carbonitrile and 2 g of Raney nickel (activated by washing with water to pH 7 and subsequent washing with ethanol) in 200 ml of ethanol is hydrogenated under a pressure of 500 psi for 12 hours. The reaction mixture is filtered through Hyflo and the filtrate is evaporated. The crude title compound is identified from the residue on the basis of the Rf. The title compound is employed without further purification in the next stage.

reactant | 5-(4-methoxyphenyl)-5-methylmorpholine-3-carbonitrile | 40.1 mmol | COC1=CC=C(C=C1)C1(COCC(N1)C#N)C | C13H16N2O2
catalyst | Raney nickel | 2 g, pH 7 | [Ni] | Ni
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | C-[5-(4-Methoxyphenyl)-5-methylmorpholin-3-yl]methylamine | COC1=CC=C(C=C1)C1(COCC(N1)CN)C | C13H20N2O2
